US07034153B2
2-methyl-4-methoxyphenylacetonitrile
Under argon atmosphere, a mixture of N-bromosuccinimide (17.8 g) and 2,2′-azobisisobutyronitrile (492 mg) was added to a solution of 1,2-dimethyl-4-methoxybenzene (13.6 g) in carbon tetrachloride (200 ml). The mixture was refluxed for 6.5 hours. The reaction mixture was cooled with ice-bath. An insoluble matter was removed by filtration, and washed with carbon tetrachloride. A combined filtrate was concentrated. The residue was dissolved into N,N-dimethylformamide (100 ml) and sodium cyanide (9.86 g) was added to the mixture. The mixture was stirred over night at room temperature. The reaction mixture was poured into water, and the mixture was extracted with diethyl ether. The organic layer was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate:n-hexane=1:6→1:4) to give the title compound (11.78 g) having the following physical data.

reactant | N-bromosuccinimide | 17.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1,2-dimethyl-4-methoxybenzene | 13.6 g | CC1=C(C=C(C=C1)OC)C | C9H12O
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2′-azobisisobutyronitrile | 492 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 2-methyl-4-methoxyphenylacetonitrile | 11.78 g | CC1=C(C=CC(=C1)OC)CC#N | C10H11NO
